US06777417B2
Synthesis of 3-[1-{3-[3-(4-methyl-piperazin-1-yl)-3-oxo-propyl]-4,5,6,7-tetrahydro-1H-indol-2-yl}-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-1H-indole-5-sulfonic acid methylamide
3-[3-(4-Methylpiperazin-1-yl)-3-oxo-propyl]-4,5,6,7-tetrahydro-1H-indole-2-carbaldehyde (121 mg, 0.3 mmol) was condensed with 5-methylaminosulfonyl-oxindole (68 mg, 0.3 mmol) following the same procedure used in Example 1 to give the desired product (86 mg, 56% yield).

reactant | 3-[3-(4-Methylpiperazin-1-yl)-3-oxo-propyl]-4,5,6,7-tetrahydro-1H-indole-2-carbaldehyde | 0.3 mmol, 121 mg | CN1CCN(CC1)C(CCC1=C(NC=2CCCCC12)C=O)=O | C17H25N3O2
reactant | 5-methylaminosulfonyl-oxindole | 0.3 mmol, 68 mg | CNS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C9H10N2O3S
product | 3-[1-{3-[3-(4-methyl-piperazin-1-yl)-3-oxo-propyl]-4,5,6,7-tetrahydro-1H-indol-2-yl}-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-1H-indole-5-sulfonic acid methylamide | 86 mg, 56% yield | CNS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C=1NC=2CCCCC2C1CCC(=O)N1CCN(CC1)C | C26H33N5O4S
